US04948810
1 g of methyl 4-(2-aminoethyl)-2-fluorophenoxyacetate hydrochloride is added to a mixture of 30 ml of ethyl acetate, 1.58 g of potassium carbonate and 15 ml of water, and a solution of 0.78 g of 4-chlorophenylsulfonyl chloride in 15 ml of ethyl acetate is added dropwise thereto at room temperature. After the mixture is stirred for 2 hours, the ethyl acetate layer is separated therefrom, washed, dried and evaporated to remove the solvent. The residue is recrystallized from a mixture of ethyl acetate, isopropylether and n-hexane. 1.39 g of methyl 4-[2-(4-chlorophenyl)sulfonylaminoethyl]-2-fluorophenoxyacetate are obtained as colorless prisms.

reactant | methyl 4-(2-aminoethyl)-2-fluorophenoxyacetate hydrochloride | 1 g | Cl.NCCC1=CC(=C(OCC(=O)OC)C=C1)F
reactant | potassium carbonate | 1.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 15 ml | O | H2O
reactant | 4-chlorophenylsulfonyl chloride | 0.78 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[2-(4-chlorophenyl)sulfonylaminoethyl]-2-fluorophenoxyacetate | 1.39 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC(=C(OCC(=O)OC)C=C1)F | C17H17ClFNO5S
